US08633313B2
To a solution of 3-(2-bromophenyl)-3-oxopropanenitrile (15 g, 66.94 mmol) in DMSO (267 mL) were added sodium salt of methanesulfonic acid (13.6 g, 138.89 mmol), copper iodide (6.3 g, 33.47 mmol), L-proline (3.8 g, 33.47 mmol) and sodium hydroxide (1.3 g, 33.47 mmol) at 25° C. The reaction mixture was stirred for 1 h at 60° C. Water was added to the reaction mixture at 25° C. and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel using 0-45% EtOAc in hexane to give 3-(2-(methylsulfonyl)phenyl)-3-oxopropanenitrile: 1H NMR (400 MHz, CHLOROFORM-d): δ 3.183 (S, 3H), 4.041 (s, 2H), 7.468 (dd, 1H, J=1.2 Hz, J=7.6 Hz), 7.699-7.798 (m, 2H), 8.084 (dd, 1H, J=1.2 Hz, J=7.6 Hz); LC-MS (ESI) m/z 224.0 [M+H]+.

reactant | 3-(2-bromophenyl)-3-oxopropanenitrile | 66.94 mmol, 15 g | BrC1=C(C=CC=C1)C(CC#N)=O | C9H6BrNO
reactant | sodium | [Na] | Na
reactant | methanesulfonic acid | 138.89 mmol, 13.6 g | CS(=O)(=O)O | CH4O3S
reactant | L-proline | 33.47 mmol, 3.8 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 33.47 mmol, 1.3 g | [OH-].[Na+]
solvent | DMSO | 267 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 33.47 mmol, 6.3 g | [Cu](I)I
solvent | Water | O | H2O
product | 3-(2-(methylsulfonyl)phenyl)-3-oxopropanenitrile | CS(=O)(=O)C1=C(C=CC=C1)C(CC#N)=O | C10H9NO3S
